US07884207B2
Ethoxyacetyl chloride (9.00 g, 73.4 mmol) was reacted with tert-butyl 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclohexylcarbamate (27.2 g, 73.4 mmol) according to the method described in Part E of Example 9 and the resulting product was treated according to the method described in Part E of Example 9. After the solvent was removed to yield an oil, the oil was dissolved in ethanol (300 mL) and water (30 mL). Sodium hydroxide (4.3 g, 108 mmol) was added and the solution was heated at reflux for 6 h. The volatiles were removed under reduced pressure and the resulting brown oil was partitioned between dichloromethane (500 mL) and water. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to yield a brown oil. Purification by flash chromatography (silica gel, 30% ethyl acetate/hexanes) provided tert-butyl 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexylcarbamate as a brown solid (11.9 g, 38%).

reactant | Ethoxyacetyl chloride | 73.4 mmol, 9.00 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | tert-butyl 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclohexylcarbamate | 73.4 mmol, 27.2 g | NC=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)NC(OC(C)(C)C)=O | C21H30N4O2
reactant | Sodium hydroxide | 108 mmol, 4.3 g | [OH-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | tert-butyl 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexylcarbamate | 11.9 g, 38% | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)NC(OC(C)(C)C)=O | C25H34N4O3
